US07241745B2
N-{4-[1-(diphenylaminocarbonyl)-piperidin-4-yl]-butyl}-3-(pyridin-3-yl)-acrylamide (substance 199)
6.5 g (18.0 mmol) N-[4-(piperidin-4-yl)-butyl]-3-(pyridin-3-yl)-acrylamide dihydrochloride (K22.142) and 5.77 ml (41.4 mmol) TEA are placed in 70 ml abs. dichlormethane and cooled to ca. 0° C. under moisture exclusion. 4.58 g (19.8 mmol) N,N-diphenylcarbamic acid chloride are dissolved in 20 ml abs. dichlormethane and added dropwise. The mixture is stirred at RT overnight without further cooling. 4 ml (28.7 mmol) TEA are added and the red colored suspension is stirred a further 2 hours at RT. Subsequently, the batch is washed with 80 ml water. The organic phase is dried over sodium sulfate and the solvent is removed under vacuum. The residue is chromatographically purified over silica gel with CHCl3/CH3OH (98/2) and crystallized twice, each from 60 ml acetic acid ethyl ester, after drawing off the solvent. Beige colored crystals with a MP of 132–134° C.; yield: 5.3 g (60%).

reactant | N-[4-(piperidin-4-yl)-butyl]-3-(pyridin-3-yl)-acrylamide dihydrochloride | 18.0 mmol, 6.5 g | Cl.Cl.N1CCC(CC1)CCCCNC(C=CC=1C=NC=CC1)=O
reactant | N,N-diphenylcarbamic acid chloride | 19.8 mmol, 4.58 g | C1(=CC=CC=C1)N(C(=O)Cl)C1=CC=CC=C1 | C13H10ClNO
solvent | dichlormethane | ClCCl | CH2Cl2
product | N-{4-[1-(diphenylaminocarbonyl)-piperidin-4-yl]-butyl}-3-(pyridin-3-yl)-acrylamide | C1(=CC=CC=C1)N(C(=O)N1CCC(CC1)CCCCNC(C=CC=1C=NC=CC1)=O)C1=CC=CC=C1 | C30H34N4O2
